US05932601
A mixture of 5-[3-methoxy-4-(2-phenyl-4-oxazolyl-methoxy)cinnamylidene]-2,4-oxazolidinedione (1.0 g), platinum oxide (PtO2) (0.2 g) and tetrahydrofuran (THF)-acetic acid (4:1, 190 ml) was subjected to catalytic hydrogenation under 1 atmospheric pressure at room temperature. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The concentrate was dissolved in chloroform, which was washed with water, a saturated aqueous solution of sodium hydrogencarbonate and water, successively, followed by drying (MgSO4). The chloroform layer was concentrated under reduced pressure, and the concentrate was subjected column chromatography on silica gel. From the fraction eluted with chloroform-ethyl acetate (4:1), 5-[3-[3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione (0.19 g, 19%) was obtained. Recrystallization of the product from ethyl acetate-hexane gave colorless prisms, m.p.134-135° C.

reactant | 5-[3-methoxy-4-(2-phenyl-4-oxazolyl-methoxy)cinnamylidene]-2,4-oxazolidinedione | 1.0 g | COC=1C=C(C=CC=C2C(NC(O2)=O)=O)C=CC1OCC=1N=C(OC1)C1=CC=CC=C1 | C23H18N2O6
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | 5-[3-[3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione | 0.19 g, 19% | COC=1C=C(C=CC1OCC=1N=C(OC1)C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C23H22N2O6
